US09056873B2
Step B: 2-(4-Fluorothiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a mixture of [Ir(μ-OMe(COD)](50 mg, 0.015 mmol, 3 mol %) and 4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.292 g, 9.79 mmol) was added a solution of 4,4′-di-tert-butyl-2,2′-bipyridine (0.039 g, 0.147 mmol) in n-hexane (3 mL). The reaction mixture was stirred for 1 minute and then added to a vessel containing 3-fluorothiophene (0.5 g, 4.90 mmol) dissolved in hexane (3 mL). The mixture was allowed to react at room temperature for 1 hour. The mixture was subsequently evaporated and used without further work up.

reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 9.79 mmol, 1.292 g | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 4,4′-di-tert-butyl-2,2′-bipyridine | 0.147 mmol, 0.039 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | 3-fluorothiophene | 4.90 mmol, 0.5 g | FC1=CSC=C1 | C4H3FS
solvent | n-hexane | 3 mL | CCCCCC | C6H14
solvent | hexane | 3 mL | CCCCCC | C6H14
product | 2-(4-Fluorothiophen-2-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC=1C=C(SC1)B1OC(C(O1)(C)C)(C)C | C10H14BFO2S
